US04954508
3-Butyl-4,7-dihydro-1,6-dimethyl-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine 5-carboxylic acid 2-methoxyethyl ester.
Starting from 3-butyl-1-methyl-5-pyrazolamine and (2-methoxyethyl)-2-(2-nitrobenzyliden)acetoacetate.

reactant | 3-butyl-1-methyl-5-pyrazolamine | C(CCC)C1=NN(C(=C1)N)C | C8H15N3
reactant | (2-methoxyethyl)-2-(2-nitrobenzyliden)acetoacetate | COCCOC(C(C(=O)C)=CC1=C(C=CC=C1)[N+](=O)[O-])=O | C14H15NO6
product | 3-Butyl-4,7-dihydro-1,6-dimethyl-4-(2-nitrophenyl)-1H-pyrazolo[3,4-b]pyridine 5-carboxylic acid 2-methoxyethyl ester | COCCOC(=O)C=1C(C2=C(NC1C)N(N=C2CCCC)C)C2=C(C=CC=C2)[N+](=O)[O-] | C22H28N4O5
